US07291619B2
4-{2-[(2,2-Dimethyl-propionylamino)-methyl]-phenyl}-piperazine
1-Boc-4-(2-Aminomethyl-phenyl)-piperazine (0.75 g, 2.6 mmol) was dissolved in methylene chloride (20 mL). DIPEA (2.3 mL, 13 mmol) was added, and the mixture was cooled to about 0° C. The solution was treated with trimethylacetyl chloride (0.28 g, 0.28 mL, 2.3 mmol) and stirred for about 1 hour at 0° C. The solution was warmed to r.t. and stirred overnight. The mixture was diluted with ethyl acetate (400 mL), washed with water (60 mL), saturated aqueous sodium bicarbonate (60 mL) and brine (60 mL) and then dried over anhydrous sodium sulfate. The solution was concentrated under reduced pressure and purified via silica gel chromatography (80% ethyl acetate in hexanes) to afford a clear oil, which was subsequently stirred in neat TFA (5 mL) for about 1 hours. The solvent was evaporated under reduced pressure and the residue taken up in water (30 mL). Sodium hydroxide (1 g, 25 mmol) and ethyl acetate (30 mL) were added, and the mixture was stirred for about 45 minutes. The organic phase was collected and the aqueous phase was extracted with ethyl acetate (60 mL). The combined organic fractions were washed with water (45 mL) and brine (30 mL) and then dried over anhydrous sodium sulfate. Concentration under reduced pressure afforded the title compound (0.54 g, 75%) as a clear oil.

reactant | 1-Boc-4-(2-Aminomethyl-phenyl)-piperazine | 2.6 mmol, 0.75 g | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)CN | C16H25N3O2
reactant | DIPEA | 13 mmol, 2.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | trimethylacetyl chloride | 2.3 mmol, 0.28 mL, 0.28 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | Sodium hydroxide | 25 mmol, 1 g | [OH-].[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-{2-[(2,2-Dimethyl-propionylamino)-methyl]-phenyl}-piperazine | 0.54 g, 75% | CC(C(=O)NCC1=C(C=CC=C1)N1CCNCC1)(C)C | C16H25N3O
